US07812028B2
a) 5-Bromo-6-chloro-N—((R)-1-hydroxymethyl-3-methyl-butyl)-nicotinamide
5-Bromo-6-chloro-nicotinic acid (2.0 g, 8.46 mmol) was dissolved in DMA (20 mL). To the solution was added TBTU (3.1 g, 9.3 mmol), N,N-diisopropylethyl amine (7.4 mL, 42 mmol) and (D)-leucinol (1.1 g, 9.3 mmol). The reaction mixture was stirred for 16 h at room temperature. The solvent was evaporated in vacuo and the residue was purified by column chromatography on silica (cyclohexane/ethyl acetate gradient) to yield 2.6 g of the title compound as a yellow oil, MS (ISP) 337.1 (M+H)+.

reactant | 5-Bromo-6-chloro-nicotinic acid | 8.46 mmol, 2.0 g | BrC=1C(=NC=C(C(=O)O)C1)Cl | C6H3BrClNO2
reactant | TBTU | 9.3 mmol, 3.1 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropylethyl amine | 42 mmol, 7.4 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (D)-leucinol | 9.3 mmol, 1.1 g | N[C@H](CC(C)C)CO | C6H15NO
solvent | DMA | 20 mL | CC(=O)N(C)C | C4H9NO
product | 5-Bromo-6-chloro-N—((R)-1-hydroxymethyl-3-methyl-butyl)-nicotinamide | 2.6 g | BrC=1C(=NC=C(C(=O)N[C@H](CC(C)C)CO)C1)Cl | C12H16BrClN2O2
